US07754735B2
3-(2-benzoxazolyl)-2,5-dimethyl-1H-indole-1-acetic acid
2,5-dimethyl indole (0.3 g), 2-chlorooxazole (0.47 g) and NMP (2 ml) were heated in a microwave at 100 watts for 20 min at 160° C. Water and EtOAc were added and separated, the aqueous phase was re-extracted with EtOAc (×4). The combined organic extracts were dried (MgSO4) and concentrated in vacuo. The precipitate was triturated with EtOAc then recrystallised from methanol to give the title compound (0.19 g).

reactant | 2,5-dimethyl indole | 0.3 g | CC=1NC2=CC=C(C=C2C1)C | C10H11N
reactant | 2-chlorooxazole | 0.47 g | ClC=1OC=CN1 | C3H2ClNO
reactant | NMP | 2 ml | CN1CCCC1=O | C5H9NO
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2-benzoxazolyl)-2,5-dimethyl-1H-indole-1-acetic acid | 0.19 g | O1C(=NC2=C1C=CC=C2)C2=C(N(C1=CC=C(C=C21)C)CC(=O)O)C | C19H16N2O3
